US09216972B2
The 3-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-7-vinyl-3,3a,4,5-tetrahydronaphtho[1,2-c]isoxazol-3-ol (5 g, 11.73 mmol) was mixed with thionyl chloride (1.712 mL, 23.45 mmol) and anhydrous toluene (80 mL). Pyridine (0.190 mL, 2.345 mmol) was then added dropwise. The mixture was stirred under nitrogen at room temperature for 30 min and 90° C. for 15 min. The mixture was concentrated under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (50 mL) and dichloromethane (100 mL, 2×50 mL). The combined dichloromethane extracts were dried over sodium sulfate, filtered through a pad of silica gel and concentrated under reduced pressure. Flash chromatography purification (220 g silica gel column, 25→60% dichloromethane in hexanes) and trituration with methanol gave 3-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-7-vinyl-4,5-dihydronaphtho[1,2-c]isoxazole (1.96 g, 4.80 mmol, 40.9% yield) as a white solid. The compound had an HPLC retention time=4.28 min (condition C); LC/MS M+1=408.9.

reactant | 3-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-7-vinyl-3,3a,4,5-tetrahydronaphtho[1,2-c]isoxazol-3-ol | 11.73 mmol, 5 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C1(C2C(=NO1)C1=CC=C(C=C1CC2)C=C)O | C23H17F3N2O3
reactant | thionyl chloride | 23.45 mmol, 1.712 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 2.345 mmol, 0.190 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-7-vinyl-4,5-dihydronaphtho[1,2-c]isoxazole | 4.80 mmol, 1.96 g, 40.9% yield | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C1=C2C(=NO1)C1=CC=C(C=C1CC2)C=C | C23H15F3N2O2
